US06358972B1
5-(4-Chlorophenyl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
The title compound was prepared by the procedure of Example 10, beginning with 5-bromo-3-(1-methylpiperidin-4-yl)-1-(triisopropylsilyl)-indole (0.500 g, 1.11 mmol), 4-chlorophenylboronic acid (0.183 g, 1.17 mmol), tetrakis(triphenylphosphine)palladium(0) (0.064 g, 0.056 mmol), and 2M aqueous sodium carbonate solution (2 mL) in toluene (15 mL) to give 0.200 g of 5-(4-chlorophenyl)-3-(1-nethylpiperidin-4-yl)-1-(triisopropylsilyl)-indole (40%) as a white solid, which was desilylated by dissolving in 1 mL of tetrahydrofuran and treating with tetrabutylammonium fluoride (1M in tetrahydrofuran, 4 mL) to give the title compound (0.112 g, 83%) as an amorphous solid. FDMS m/e=325 (M+). EA calculated for C20H21N2Cl.½ H2O: C, 71.95; H, 6.64; N, 8.39. Found: C, 72.09; H, 6.68; N, 8.48.

reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1-(triisopropylsilyl)-indole | 1.11 mmol, 0.500 g | BrC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C1CCN(CC1)C | C23H37BrN2Si
reactant | 4-chlorophenylboronic acid | 1.17 mmol, 0.183 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.056 mmol, 0.064 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Chlorophenyl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | ClC1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H21ClN2
